US07405233B2
A solution of methyl-3-[N-(4-nitrophenoxycarbonyl)amino]benzoate (0.19 g, 0.60 mmol) and 4-tert-butylaniline (0.10 mL, 0.60 mmol) in pyridine (5 mL) was heated to reflux for 16 h. The solution was cooled and evaporated, and the residual material was taken up in ethyl acetate (100 mL). This was washed with 1 N aq. sodium hydroxide and brine, dried over magnesium sulfate, filtered and evaporated. The residual solid was triturated with ether, collected by filtration and dried under vacuum to afford the product, methyl-3-[3-(4-tert-butylphenyl)-ureido]-benzoate, as a solid (0.19 g, 0.58 mmol, 97%).

reactant | methyl-3-[N-(4-nitrophenoxycarbonyl)amino]benzoate | 0.60 mmol, 0.19 g | COC(C1=CC(=CC=C1)NC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])=O | C15H12N2O6
reactant | 4-tert-butylaniline | 0.60 mmol, 0.10 mL | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | methyl-3-[3-(4-tert-butylphenyl)-ureido]-benzoate | COC(C1=CC(=CC=C1)NC(=O)NC1=CC=C(C=C1)C(C)(C)C)=O | C19H22N2O3
